* C:\Users\dilip\Documents\AC-DCconverter.asc
V1 N001 0 SINE(0 1 5)
D1 N001 N002 1SS390SM
R1 N002 0 100k
C1 N002 0 5m
.model D D
.lib C:\Users\dilip\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 10
.backanno
.end
